data/oMe_Silver.jsonl
{"reaction_id": "NR-046_1-c1ccc(OC)cc1","name": "Corey-Fuchs Reaction","level": "medium","reactants_smiles": ["c1ccc(OC)cc1C=O"],"products_smiles": ["c1ccc(OC)cc1C#C"],"conditions": "1. P(c1ccccc1)(c1ccccc1)c1ccccc1, C(Br)(Br)(Br)Br 2. [Li]CCCC","mechnism_text_description": "The Corey-Fuchs reaction is a two-step procedure for the conversion of aldehydes into terminal alkynes. In the first step, intermediate α,α-dibromoalkenes are prepared by the reaction of aldehydes with carbon tetrabromide and triphenylphosphine. In the second step, treatment with a strong base yields the terminal alkynes. The reaction was developed by Elias J. Corey and Philip L. Fuchs in 1972, building on the work Fausto Ramirez published in 1962.","mechanism_step_nums": 9,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[P+](c1ccccc1)(c1ccccc1)(c1ccccc1)Br.[C-](Br)(Br)Br","step_weight": 0,"rationale": "Triphenylphosphine attacks CBr4, displacing bromide due to phosphorus's strong nucleophilicity and the electrophilicity of carbon enhanced by electron-withdrawing bromines."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "BrC(Br)=[P](c1ccccc1)(c1ccccc1)c1ccccc1","step_weight": 0,"rationale": "Bromide attacks the phosphonium intermediate, forming a dibromomethylphosphonium salt stabilized by resonance with the phenyl groups on phosphorus."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[O-]C(c1ccc(OC)cc1)C(Br)(Br)[P+](c1ccccc1)(c1ccccc1)c1ccccc1","step_weight": 0,"rationale": "The aldehyde oxygen attacks the electrophilic phosphorus, driven by the strong affinity of phosphorus for oxygen and the polarization of the P–C bond."},{"step": 4,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "O1C(c1ccc(OC)cc1)C(Br)(Br)P1(c1ccccc1)(c1ccccc1)c1ccccc1","step_weight": 0,"rationale": "Intramolecular coordination between oxygen and phosphorus forms a cyclic oxaphosphetane-like intermediate, stabilizing charge separation."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc(OC)cc1C=C(Br)Br","step_weight": 0,"rationale": "Elimination occurs to form the α,α-dibromoalkene, driven by the stability of triphenylphosphine oxide and the conjugation in the alkene."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccc(OC)cc1C([Li])=C(Br)Br","step_weight": 0,"rationale": "Strong base deprotonates the α-position, facilitated by the electron-withdrawing effect of the two bromines, generating a carbanion."},{"step": 7,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc(OC)cc1C#CBr","step_weight": 0,"rationale": "The carbanion eliminates bromide to form a bromoalkyne, favored by the good leaving group ability of bromide and formation of a triple bond."},{"step": 8,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c1ccc(OC)cc1C#C[Li]","step_weight": 0,"rationale": "Base displaces bromide from the bromoalkyne to form a lithium acetylide, driven by the high acidity of the terminal alkyne proton and strong nucleophilicity of the base."},{"step": 9,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccc(OC)cc1C#C","step_weight": 0,"rationale": "Protonation of the acetylide anion yields the terminal alkyne, driven by the stability of the neutral alkyne and the conjugate acid-base equilibrium."}],"description": "The Corey–Fuchs reaction converts aldehydes into terminal alkynes via α,α-dibromoalkene intermediates. Triphenylphosphine and CBr4 form a reactive phosphonium species that transforms the aldehyde, and strong base induces successive eliminations to yield the alkyne, followed by protonation to give the terminal product."}
